US08378142B2
Preparation of N-benzyl-O-methyl-D-serinamide
To a solution of Example 3 product (i.e. N-benzyl-O-methyl-N2-trityl-D-serinamide, 50 g) in dichloromethane (100 ml), hydrochloric acid (36%) was added at room temperature. This solution was stirred for 30 minutes at room temperature and then the solvent was completely recovered under vacuum at 40° C. Water (250 ml) was added to it at room temperature and the aqueous layer was neutralized with aqueous ammonia (20 ml). The aqueous layer was extracted with toluene (2×200 ml). The toluene was then completely recovered under vacuum at 50° C. to 55° C. to get an oil. Yield=15 gm.

reactant | N-benzyl-O-methyl-N2-trityl-D-serinamide | C(C1=CC=CC=C1)NC([C@H](NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)COC)=O | C30H30N2O2
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | N-benzyl-O-methyl-D-serinamide | C(C1=CC=CC=C1)NC([C@H](N)COC)=O | C11H16N2O2
